US04474777
A solution of (S)-[6-bromo-5-(o-chlorophenyl-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate [obtained in accordance with details in Example 1(f) from 10 g (0.0254 mol) of (S)-7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one] in acetone is treated with a solution of 16 g of D-glucosamine hydrochloride and 7.3 g of potassium carbonate in 100 ml of water, the mixture is stirred at room temperature for 10 minutes and extracted several times with ethyl acetate. The organic phase is dried over sodium sulphate and evaporated, whereupon the residue is recrystallized from tetrahydrofuran/methylene chloride. There is obtained 2-[3-[(S)-6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ureido]-2-deoxy-D-glucose as a diastereomeric mixture with a melting point of 185° (decomposition); [α]25D =+45° (0.8 percent solution in methanol).

reactant | (S)-7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | 0.0254 mol | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1Br | C17H15BrClN3O
reactant | D-glucosamine hydrochloride | 16 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | potassium carbonate | 7.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 2-[3-[(S)-6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]ureido]-2-deoxy-D-glucose | BrC1=C(C=CC2=C1C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)NC(N[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO)=O | C24H26BrClN4O7
